2196-04-18 07:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2196-4-17**] 02:21 PM
   received from EW at 1421
 EKG - At [**2196-4-17**] 06:07 PM
 EKG - At [**2196-4-17**] 11:00 PM
   [**4-17**] Overnight:
   - Repeat K 5.4 at 4pm. EKG with improved ST depressions in
   anterolateral leads
   - Repeat labs at 11pm showed INR rising slightly from 1.0->1.1->1.2; Cr
   down to 1.3; Na still low at 130; K 5.5; AST increased to 64; CK to
   328; EKG improving in terms of peaked T waves, ST depressions, PR
   interval but with new poor R wave progression. Got more Mg, Kayexalate,
   IVF. Troponin 1.08, called cards, started heparin gtt without bolus per
   cards.
   - Pt spiked to 100.7 overnight.
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2196-4-17**] 02:30 PM
   Ampicillin - [**2196-4-17**] 02:42 PM
   Acyclovir - [**2196-4-17**] 04:05 PM
   Levofloxacin - [**2196-4-17**] 08:31 PM
   Infusions:
   Heparin Sodium - 850 units/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2196-4-18**] 01:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-4-18**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.6
C (97.8
   HR: 72 (69 - 106) bpm
   BP: 106/52(64) {90/45(56) - 147/87(99)} mmHg
   RR: 8 (8 - 16) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.1 kg (admission): 72.4 kg
             Total In:
                                                                    650 mL
                                                                    780 mL
   PO:
             TF:
   IVF:
                                                                    590 mL
                                                                    690 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                    505 mL
   Urine:
                                                                  1,150 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,000 mL
                                                                    275 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 680 (468 - 760) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 13
   PIP: 11 cmH2O
   Plateau: 11 cmH2O
   SpO2: 98%
   ABG: ///23/
   Ve: 5.9 L/min
   Physical Examination
   Gen: intubated, sedated
   CV: rrr w/o mrg
   Pulm: ctab anteriorly
   Ab: soft, nt, nd, bs+, no masses
   Ext: 2+ DP pulses bilaterally, no lower extremity edema, no splinter
   hemorrhages/subcutaneous nodules, no rash
   Neuro: pt moving UE in response to exam
   Labs / Radiology
   217 K/uL
   12.3 g/dL
   134 mg/dL
   1.2 mg/dL
   23 mEq/L
   4.6 mEq/L
   31 mg/dL
   101 mEq/L
   133 mEq/L
   36.5 %
   6.6 K/uL
                             [**2196-4-17**]  01:17 PM
                             [**2196-4-17**]  03:27 PM
                             [**2196-4-17**]  11:00 PM
                             [**2196-4-18**]  05:30 AM
   WBC
   10.6
   6.6
   6.6
   Hct
   41.6
   37.7
   36.5
   Plt
   200
   212
   217
   Cr
   1.5
   1.3
   1.2
   TropT
   0.21
   1.08
   0.92
   Glucose
   125
   80
   139
   134
   Other labs: PT / PTT / INR:13.7/74.6/1.2, CK / CKMB /
   Troponin-T:331/32/0.92, ALT / AST:29/64, Alk Phos / T Bili:96/0.4,
   Amylase / Lipase:/20, LDH:232 IU/L, Ca++:8.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.7 mg/dL
   Micro: urine legionella pending; MRSA screen pending; CSF, urine, blood
   X2 cultures pending
   CSF gram stain without PMNs/organisms. HSV CSF PCR pending.
   CXR [**4-17**]: Interval increase of cardiac silhouette, concerning for
   interval development of pericardial effusion. Patchy opacity in
   retrocardiac left lower lobe, could represent atelectasis, versus early
   infiltrate versus aspiration.
   CXR [**4-18**]: unread
   EKG [**4-18**] 7am. Sinus rhythm, PR 260 (from 250), QRS 116 (from 112), HR
   80, QTc 437 (from 423), lateral ST depressions <1 mm V5
   Assessment and Plan
   [**Age over 90 **] y/o M with hx of HTN, hyperlipidemia, GERD and CKD presents from
   home today with confusion and complaints of inability to hear, in the
   ED found to be febrile to 100.8, was intubated for agitation and
   tachypnea, admitted to MICU.
   .
   # RESPIRATORY DISTRESS. Pt intubated for tachypnea/airway protection in
   setting of agitation/change in mental status/tachypnea. Pt now on PSV
   [**5-18**] FiO2 50%.
   - HOB precautions, VAP precautions.
   - Attempt extubation pending MRI as discussed below
   .
   # CHANGE IN MENTAL STATUS: Pt confused, with headache, complaining of
   inability to hear. DDx of change in mental status includes
   sepsis/infection (most likely), acute intracranial process
   (stroke/bleed), seizure, infectious meningitis/encephalitis, hypoxemia,
   electrolyte imbalance, toxins.  LP performed in ED does not show a
   pattern typical for bacterial infection.
   Acute hearing loss may be more consistent with viral infectious
   etiology. Non-infectious etiology including vasculitis or microvascular
   thrombosis could also cause acute hearing loss.
   - hold antibiotics for now
   - continue acyclovir for possible HSV-1 encephalitis pending CSF HSV
   PCR results
   - check cortisol level for adrenal insufficiency
   - Infectious work-up as below (see #FEVER)
   - EEG given UE shaking
   - Obtain brain MRI with contrast when renal function improved
   .
   # HYPERKALEMIA. Elevated to 6.7 with EKG changes; pt received
   insulin/dextrose, bicarb, calcium, kayexalate X2.
   - Check K q6h until remains normal X 24 hours
   - Treat ARF as below
   .
   # ELEVATED TROPONIN: unclear if secondary to new acute ischemia, but
   more likely demand in the setting of an acute infection.  Had ST
   depressions when agitated and moving. Troponins elevated to 1.08, then
   decreased to 0.92 by [**4-18**] morning.
   - cycle enzymes
   - Continue daily EKGs while enzymes remain elevated
   - high dose statin/asa, consider starting low-dose beta blocker when
   pressure permits
   - on heparin gtt without bolus per cards recs overnight; will
   discontinue (and restart SCH for prophylaxis) after repeat cardiac labs
   this afternoon show continued decline in enzymes
   - will need workup after acute issues improve with stress test
   - TTE today
   .
   # ARF. Acute on chronic, with mildly elevated Cr to 1.3 one year prior
   that normalized to baseline of 1.1. For acute elevation, suspect
   component of prerenal, ?ATN in setting of possible sepsis though not
   objectively hypotensive on admission
   - IVF (bolus to maintain BP > 120 systolic, UOP > 50 cc/hr); urine
   lytes with FeNa 4% and FeUN 51%. Neg urine eos, Na 98.
   - Monitor UOP
   - Renally dose meds
   - Avoid nephrotoxins
   - Repeat BUN/Cr in afternoon, follow-up urine sediment
   .
   # FEVER/POSSIBLE PNA. Pt with rectal temp to 100.8 on DOA, spiked to
   100.7 o/n on [**4-17**]-5, b/l UE shaking. Unclear source: ddx includes
   meningitis given confusion and headache and deafness, possible LUL PNA
   given CXR findings, viral infection (URI), endocarditis, abdominal
   process (eg diverticulitis). UTI unlikely with negative UA.
   - F/U HSV PCR
   - Blood cx, CSF cx,
   - sputum cx
   - urine cx (though UA benign)
   - F/U  CXR: follow up final read
   - Continue empiric acyclovir (day 1
 [**4-17**]) as above for possible
   encephalitis;
   - Continue levofloxacin (day 1
 [**4-17**]) empirically for possible
   community-acquired PNA given concerning CXR (no known risk factors for
   MRSA); course to be determined pending clinical course. Dose adjust
   based on renal function
   - Follow up urine legionella
   .
   # SUDDEN HEARING LOSS. Pt not yet evaluated due to agitation, but per
   family was c/o hearing loss. Sudden sensorineural hearing loss is
   usually unilateral, usually resolves in <72 hours. Etiology usually
   uncertain; postulated etiologies include viral cochleitis (associated
   with HSV-I, parainfluenza, influenza virus, HIV, MMR, bacterial
   meningitis, M. pneumonia, Lyme, MTb, syphilis), microvascular events,
   vertebrobasilar CVA / TIA; cerebellar infarction, inner ear hemorrhage,
   autoimmune disorders/vasculitides, ototoxic drugs, neoplasm, head
   injury, Meniere's disease, otosclerosis, Paget's, MS, sarcoid,
   hypothyroidism. Typical treatment for sudden sensorineural hearing loss
   includes 10 days of high dose prednisone (60-80 mg qd), with
   valacyclovir 1 g tid X 7-10 days (though trials supporting these
   treatments are lacking). We will continue acyclovir empirically until
   further evaluation of the pt's hearing is possible, but will not use
   steroids given possibility of infection.
   - Continue acyclovir (day 1 = [**4-17**]) for presumed course 7-10 days unless
   CSF PCR negative for HSV1
   - Audiometric eval when possible, if symptoms persist when patient able
   to be examined
   - Follow up TSH
   - MRI with contrast when possible
   .
   # HYPONATREMIA: likely secondary to appropriate ADH response to
   dehydration, improving
   - IV fluids
   - trend electrolytes
   .
   # Elevated coags/LFTs. Unclear etiology, will recheck this afternoon or
   tomorrow morning.
   .
   # Hypertension. Hold home meds for now (lasix, diltiazem, isosorbide
   mononitrate)
   .
   # Hyperlipidemia. High dose statin as above.
   .
   # GERD. Continue home PPI.
   .
   # Agitation/discomfort. Morphine prn pain.
   .
   # FEN: IVF boluses as needed, replete electrolytes, NPO
   # Prophylaxis: On heparin drip for possible ACS, pneumoboots; PPI
   # Access: 2 peripherals
   # Communication: Son, [**Name (NI) 2476**] [**Name (NI) 14418**], [**Telephone/Fax (1) 14419**]
   # Code: Presumed full per initial discussion with family, unable to
   discuss with patient.
   # Disposition: ICU pending clinical improvement

2196-04-19 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2196-4-18**] 02:40 PM
 EEG - At [**2196-4-18**] 03:44 PM
 MAGNETIC RESONANCE IMAGING - At [**2196-4-18**] 09:06 PM
 EKG - At [**2196-4-19**] 06:19 AM
   - No events.  Patient with markedly low cortisol (0.4) had endocrine
   consult and cortisol stim test. Endocrine recommended starting
   hydrocortisone 50mg IV q 8 hours. Troponin peaked 1.08 and now
   downtrending.
   - Had TTE performed and MRI head performed (see below)
   - pressure support trial in the morning, pt required increased sedation
   leading to hypotension and decreased heart rate, patient switched to
   MMB then back to CMV
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2196-4-17**] 02:30 PM
   Ampicillin - [**2196-4-17**] 02:42 PM
   Levofloxacin - [**2196-4-18**] 07:36 PM
   Acyclovir - [**2196-4-18**] 10:39 PM
   Infusions:
   Heparin Sodium - 550 units/hour
   Propofol - 30 mcg/Kg/min
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2196-4-19**] 07:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-4-19**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.9
C (96.7
   HR: 49 (48 - 91) bpm
   BP: 93/49(60) {83/40(50) - 137/72(86)} mmHg
   RR: 12 (6 - 17) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 71.3 kg (admission): 72.4 kg
             Total In:
                                                                  2,564 mL
                                                                    763 mL
   PO:
             TF:
   IVF:
                                                                  2,434 mL
                                                                    763 mL
   Blood products:
   Total out:
                                                                  1,117 mL
                                                                    650 mL
   Urine:
                                                                  1,117 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,447 mL
                                                                    113 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 860 (772 - 860) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 12 cmH2O
   Compliance: 71.4 cmH2O/mL
   SpO2: 98%
   ABG: ///22/
   Ve: 6.3 L/min
   Physical Examination
   Neuro: not responsive to voice
   Skin:  Warm, no splinter hemorrhages, no rashes
   CV: bradycardic, regular rhythm, distant sounds
   Pulm: CTAB anteriorly w/o rhales or rhonchi
   Ab: soft, non-distended, hypoactive bowel sounds
   Extrem: no edema
   Labs / Radiology
   237 K/uL
   12.8 g/dL
   110 mg/dL
   1.2 mg/dL
   22 mEq/L
   4.3 mEq/L
   28 mg/dL
   99 mEq/L
   132 mEq/L
   37.3 %
   10.1 K/uL
        [image002.jpg]
                             [**2196-4-17**]  01:17 PM
                             [**2196-4-17**]  03:27 PM
                             [**2196-4-17**]  11:00 PM
                             [**2196-4-18**]  05:30 AM
                             [**2196-4-18**]  02:13 PM
                             [**2196-4-19**]  12:55 AM
   WBC
   10.6
   6.6
   6.6
   9.5
   10.1
   Hct
   41.6
   37.7
   36.5
   34.5
   37.3
   Plt
   200
   212
   217
   214
   237
   Cr
   1.5
   1.3
   1.2
   1.2
   1.2
   TropT
   0.21
   1.08
   0.92
   0.45
   Glucose
   125
   80
   139
   134
   118
   110
   Other labs: PT / PTT / INR:13.2/53.6/1.1, CK / CKMB / Troponin-T:288
   (from 260, peak 331)/15 (from 20, peak 38) /0.45 (from 0.92, peak
   1.08), ALT / AST:29/64, Alk Phos / T Bili:96/0.4, Amylase / Lipase:/20,
   LDH:232 IU/L, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   TSH 0.26, random [**Last Name (un) 402**] 0.4, [**Last Name (un) 402**] stim <0.3, 1.8, 3.4; ACTH and rennin
   pending
   Repeat UA on [**4-18**] benign, sediment with 1 RBC <1 WBC no bact/yeast, <1
   epi, neg eos
   HSV PCR from CSF pending
   Micro:
   [**4-17**] urine cx
 ng (final)
   [**4-17**] legionella ag urine
 negative
   [**4-19**] sputum cx - contaminated
   Images
   [**4-19**] CXR
 unread
   [**4-18**] MRI head w/contrast
 unread
   [**4-18**] CXR - As compared to the previous radiograph, there is no relevant
   change. The lung volumes have minimally decreased. There is no evidence
   of pleural effusion. However, subtle predominantly basal opacities are
   seen in almost unchanged manner. These opacities could reflect both
   atelectasis and pneumonia. No evidence of newly appeared parenchymal
   opacities. Borderline size of the cardiac silhouette, no pulmonary
   edema. Moderate tortuosity of the thoracic aorta. Unchanged position of
   the endotracheal tube, the tip projects 1.7 cm above the carina and
   could be retracted by 1-2 cm.
   [**4-18**] EEG
 pending
   [**4-18**] TTE
 EF 55-60%, Trivial MR, Physiologic TR/PR, no effusion; The
   basal inferior and inferolateral segments may be hypokinetic. No
   significant valvular abnormality seen.
   Assessment and Plan
   [**Age over 90 **] y/o M with hx of HTN, hyperlipidemia, GERD and CKD presents from
   home today with confusion and complaints of inability to hear, in the
   ED found to be febrile to 100.8, was intubated for agitation and
   tachypnea, admitted to MICU.
   .
   # RESPIRATORY DISTRESS. Pt intubated for tachypnea/airway protection in
   setting of agitation/change in mental status/tachypnea. Pt now on PSV
   [**5-18**] FiO2 50%. Pt unable to tolerate trial of pressure support,
   requiring increased sedation. Remains intubated in setting of
   agitation; may be difficult to extubated for this reason.
   - HOB precautions, VAP precautions.
   - Attempt extubation today
   - Trial of Precedex
   - Consider Haldol PRN for agitation
   - Attempt to wean from other sedation
   .
   # CHANGE IN MENTAL STATUS: Pt confused, with headache, complaining of
   inability to hear. DDx of change in mental status includes
   sepsis/infection (most likely), acute intracranial process
   (stroke/bleed), seizure, infectious meningitis/encephalitis, hypoxemia,
   electrolyte imbalance, adrenal insufficiency, toxins.  LP performed in
   ED does not show a pattern typical for bacterial infection.  Acute
   hearing loss may be more consistent with viral infectious etiology.
   Non-infectious etiology including vasculitis or microvascular
   thrombosis could also cause acute hearing loss.  Given low TSH,
   abnormal [**Last Name (un) 402**] stim test suspect panhypopituitarism related to ? central
   process.
   - hold antibiotics for now
   - continue acyclovir for possible HSV-1 encephalitis pending negative
   CSF HSV PCR results or normal MRI
   - Infectious work-up as below (see #FEVER)
   - EEG given UE shaking, read pending
   - F/U brain MRI with contrast, read pending
   - Continue hydrocortisone
   - Check T3/T4 given low TSH (likely related to panhypopituitarism)
   - Check IGF level
   - F/U endocrine recs
   .
   # ELEVATED TROPONIN: unclear if secondary to new acute ischemia, but
   more likely demand in the setting of an acute infection.  Had ST
   depressions when agitated and moving. Troponins elevated to 1.08, now
   normalizing. Repeat EKG ~unchanged.
   - cycle enzymes
   - Continue daily EKGs while enzymes remain elevated
   - high dose statin/asa, consider starting low-dose beta blocker when
   pressure permits
   - on heparin gtt without bolus per cards recs overnight (continue for
   48 hours)
   - will need workup after acute issues improve with stress test
   - TTE shows EF 55-60%, possible inferior/inferolateral hypokinesis but
   otherwise normal
   .
   # FEVER/POSSIBLE PNA. Pt with rectal temp to 100.8 on DOA, spiked to
   100.7 o/n on [**4-17**]-5, b/l UE shaking. Unclear source: ddx includes
   meningitis given confusion and headache and deafness, possible LUL PNA
   given CXR findings, viral infection (URI), endocarditis, abdominal
   process (eg diverticulitis). UTI unlikely with negative UA.  Urine
   legionella negative.  TTE negative for vegetations. Urine cx negative.
   - F/U HSV PCR
   - Follow blood cx, CSF cx
   - sputum cx contaminated
   - Stop levofloxacin, acyclovir given clear CXR, lack of compelling
   evidence for infectious process
   .
   # ARF. Acute on chronic, with mildly elevated Cr to 1.3 one year prior
   that normalized to baseline of 1.1. For acute elevation, suspect
   component of prerenal, ?ATN in setting of possible sepsis though not
   objectively hypotensive on admission; urine lytes with FeNa 4% and FeUN
   51%. Neg urine eos, Na 98. Urine sediment benign.
   - Now at baseline creatinine, Creatinine clearance by Cockcroft-gault
   is 41.
   - IVF (bolus to maintain UOP > 50 cc/hr)
   - Renally dose meds; avoid nephrotoxins
   .
   # HYPONATREMIA: likely secondary to appropriate ADH response to
   dehydration, improving; ?adrenal insufficiency given low cortisol. UOP
   has been declining.
   - IV fluids (will bolus this AM for recent low UOP)
   - Follow-up ACTH/renin
   - trend electrolytes
   .
   # HYPERKALEMIA. Elevated to 6.7 with EKG changes; pt received
   insulin/dextrose, bicarb, calcium, kayexalate X2. Likely secondary to
   acute on chronic kidney disease.
   - Normalized now that pt is at baseline creatinine. Will follow results
   of daily labs.
   .
   # SUDDEN HEARING LOSS. Pt not yet evaluated due to agitation, but per
   family was c/o hearing loss. Sudden sensorineural hearing loss is
   usually unilateral, usually resolves in <72 hours. Etiology usually
   uncertain; postulated etiologies include viral cochleitis (associated
   with HSV-I, parainfluenza, influenza virus, HIV, MMR, bacterial
   meningitis, M. pneumonia, Lyme, MTb, syphilis), microvascular events,
   vertebrobasilar CVA / TIA; cerebellar infarction, inner ear hemorrhage,
   autoimmune disorders/vasculitides, ototoxic drugs, neoplasm, head
   injury, Meniere's disease, otosclerosis, Paget's, MS, sarcoid,
   hypothyroidism. Typical treatment for sudden sensorineural hearing loss
   includes 10 days of high dose prednisone (60-80 mg qd), with
   valacyclovir 1 g tid X 7-10 days (though trials supporting these
   treatments are lacking). We will continue acyclovir empirically until
   further evaluation of the pt's hearing is possible, but will not use
   steroids given possibility of infection.
   - Continue acyclovir (day 1 = [**4-17**]) for presumed course 7-10 days unless
   CSF PCR negative for HSV1
   - Audiometric eval when possible, if symptoms persist when patient able
   to be examined
   - TSH low; will start thyroxine.
   - Follow-up MRI
   .
   # Elevated coags/LFTs. Unclear etiology, will recheck tomorrow.
   .
   # Hypertension. Hold home meds for now (lasix, diltiazem, isosorbide
   mononitrate)
   .
   # Hyperlipidemia. High dose statin as above.
   .
   # GERD. Continue home PPI.
   .
   # Agitation/discomfort. Morphine prn pain.
   .
   # FEN: IVF boluses as needed, replete electrolytes, NPO
   # Prophylaxis: On heparin drip for possible ACS, pneumoboots; PPI
   # Access: 2 peripherals
   # Communication: Son, [**Name (NI) 2476**] [**Name (NI) 14418**], [**Telephone/Fax (1) 14419**]
   # Code: Presumed full per initial discussion with family, unable to
   discuss with patient.
   # Disposition: ICU pending clinical improvement

2196-04-20 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2196-4-19**] 11:17 AM
   received from EW at 1421
   - MR head final read: Small acute infarcts in the left occipital and
   right posterior temporal lobes. Embolic etiology should be considered.
   - Stroke team consulted; recs: MRA (or CTA) of head/neck; check HbA1c
   and lipid panel; continue heparin gtt; F/U telemetry for signs of A-fib
   (if develops, will need anticoagulation); keep euglycemia/euthermic
   - EEG pending
   - Endocrine consulted; recs: Suspect that this is PRIMARY adrenal
   insufficiency (not secondary/panhypopit) given the hypotension and
   hyperkalemia which are not seen in secondary insufficiency. Therefore,
   no need to pursue further pituitary fxn testing. Add on cortisol to
   admission labs (pre-steroids). Consider CT of adrenals to check for
   atrophied glands.
   - Antimicrobials (levofloxacin, acyclovir) stopped [**4-19**]
   - F/U add-on labs from admission (TSH, [**Last Name (un) 402**], ACTH) and new labs ([**Male First Name (un) **],
   Triiodothyronine; Total Thyroxine; IGF1; Testosterone, Total;
   Testosterone, Free)
   - Continued heparin gtt per neuro recs
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2196-4-17**] 02:30 PM
   Ampicillin - [**2196-4-17**] 02:42 PM
   Levofloxacin - [**2196-4-18**] 07:36 PM
   Acyclovir - [**2196-4-19**] 09:41 AM
   Infusions:
   Heparin Sodium - 550 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-4-20**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 48 (44 - 59) bpm
   BP: 92/39(52) {92/39(52) - 111/55(69)} mmHg
   RR: 9 (6 - 12) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 72.6 kg (admission): 72.4 kg
             Total In:
                                                                  1,470 mL
                                                                    740 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,350 mL
                                                                    740 mL
   Blood products:
   Total out:
                                                                  1,295 mL
                                                                    244 mL
   Urine:
                                                                  1,295 mL
                                                                    244 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    175 mL
                                                                    496 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 96%
   ABG: ////
   Ve: 5.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   Chem 7and CBC/diff and coags and LFTS from today
 pending
   Results from [**4-19**]:
   237 K/uL
   12.8 g/dL
   110 mg/dL
   1.2 mg/dL
   22 mEq/L
   4.3 mEq/L
   28 mg/dL
   99 mEq/L
   132 mEq/L
   37.3 %
   10.1 K/uL
        [image002.jpg]
                             [**2196-4-17**]  01:17 PM
                             [**2196-4-17**]  03:27 PM
                             [**2196-4-17**]  11:00 PM
                             [**2196-4-18**]  05:30 AM
                             [**2196-4-18**]  02:13 PM
                             [**2196-4-19**]  12:55 AM
   WBC
   10.6
   6.6
   6.6
   9.5
   10.1
   Hct
   41.6
   37.7
   36.5
   34.5
   37.3
   Plt
   200
   212
   217
   214
   237
   Cr
   1.5
   1.3
   1.2
   1.2
   1.2
   TropT
   0.21
   1.08
   0.92
   0.45
   Glucose
   125
   80
   139
   134
   118
   110
   Other labs: PT / PTT / INR:13.2/53.6/1.1, CK / CKMB /
   Troponin-T:288/15/0.45, ALT / AST:29/64, Alk Phos / T Bili:96/0.4,
   Amylase / Lipase:/20, LDH:232 IU/L, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.9 mg/dL
   HbA1c
 pending
   Lipids
 pending
   TSH [**4-18**]
 0.26; TSH [**4-17**]
 1.1
   Cortisol
 [**4-17**]
 15.7 (admission lab)
   ACTH, renin
 pending
   HSV PCR on CSF - negative
   EKG [**4-20**]
   MRI head
 There are small foci of slow diffusion in the inferior
   posterior left occipital lobe and in the posterior right temporal lobe,
   consistent with acute infarctions. There is corresponding high signal
   on T2-weighted and FLAIR images, indicating that they are at least [**6-25**]
   hours old. There is a small chronic lacunar infarct in the right pons.
   There are multiple small foci of high T2 signal in the subcortical,
   periventricular, and deep white matter of the cerebral hemispheres,
   likely related to chronic small vessel ischemic disease. The ventricles
   and sulci are normal in size and configuration for age. There is no
   evidence of intracranial blood products. There is a 4-mm oval, smoothly
   marginated, fluid-intensity lesion in genu of the corpus callosum in
   the midline, which may represent a prominent perivascular space or a
   cyst, rather than a chronic infarct, given its smooth margins. The
   major arterial flow voids appear patent. The pituitary gland appears
   normal in size.   IMPRESSION: Small acute infarcts in the left
   occipital and right posterior temporal lobes. Embolic etiology should
   be considered.
   Micro: No growth in blood or CSF or urine cultures
   Assessment and Plan
   [**Age over 90 **] y/o M with hx of HTN, hyperlipidemia, GERD and CKD presents from
   home today with confusion and complaints of inability to hear, in the
   ED found to be febrile to 100.8, was intubated for agitation and
   tachypnea, admitted to MICU.
   .
   # RESPIRATORY DISTRESS. Pt intubated for tachypnea/airway protection in
   setting of agitation/change in mental status/tachypnea. Pt now on PSV
   [**5-18**] FiO2 50%. Pt unable to tolerate trial of pressure support,
   requiring increased sedation. Remains intubated in setting of
   agitation; may be difficult to extubated for this reason.
   - HOB precautions, VAP precautions.
   - Attempt extubation today
   - Trial of Precedex
   - Consider Haldol PRN for agitation
   - Attempt to wean from other sedation
   .
   # CHANGE IN MENTAL STATUS: Pt confused, with headache, complaining of
   inability to hear. DDx of change in mental status includes
   sepsis/infection (most likely), acute intracranial process
   (stroke/bleed), seizure, infectious meningitis/encephalitis, hypoxemia,
   electrolyte imbalance, adrenal insufficiency, toxins.  LP performed in
   ED does not show a pattern typical for bacterial infection.  Acute
   hearing loss may be more consistent with viral infectious etiology.
   Non-infectious etiology including vasculitis or microvascular
   thrombosis could also cause acute hearing loss.  Given low TSH,
   abnormal [**Last Name (un) 402**] stim test suspect panhypopituitarism related to ? central
   process.
   - hold antibiotics for now
   - continue acyclovir for possible HSV-1 encephalitis pending negative
   CSF HSV PCR results or normal MRI
   - Infectious work-up as below (see #FEVER)
   - EEG given UE shaking, read pending
   - F/U brain MRI with contrast, read pending
   - Continue hydrocortisone
   - Check T3/T4 given low TSH (likely related to panhypopituitarism)
   - Check IGF level
   - F/U endocrine recs
   .
   # ELEVATED TROPONIN: unclear if secondary to new acute ischemia, but
   more likely demand in the setting of an acute infection.  Had ST
   depressions when agitated and moving. Troponins elevated to 1.08, now
   normalizing. Repeat EKG ~unchanged.
   - cycle enzymes
   - Continue daily EKGs while enzymes remain elevated
   - high dose statin/asa, consider starting low-dose beta blocker when
   pressure permits
   - on heparin gtt without bolus per cards recs overnight (continue for
   48 hours)
   - will need workup after acute issues improve with stress test
   - TTE shows EF 55-60%, possible inferior/inferolateral hypokinesis but
   otherwise normal
   .
   # FEVER/POSSIBLE PNA. Pt with rectal temp to 100.8 on DOA, spiked to
   100.7 o/n on [**4-17**]-5, b/l UE shaking. Unclear source: ddx includes
   meningitis given confusion and headache and deafness, possible LUL PNA
   given CXR findings, viral infection (URI), endocarditis, abdominal
   process (eg diverticulitis). UTI unlikely with negative UA.  Urine
   legionella negative.  TTE negative for vegetations. Urine cx negative.
   - F/U HSV PCR
   - Follow blood cx, CSF cx
   - sputum cx contaminated
   - Stop levofloxacin, acyclovir given clear CXR, lack of compelling
   evidence for infectious process
   .
   # ARF. Acute on chronic, with mildly elevated Cr to 1.3 one year prior
   that normalized to baseline of 1.1. For acute elevation, suspect
   component of prerenal, ?ATN in setting of possible sepsis though not
   objectively hypotensive on admission; urine lytes with FeNa 4% and FeUN
   51%. Neg urine eos, Na 98. Urine sediment benign.
   - Now at baseline creatinine, Creatinine clearance by Cockcroft-gault
   is 41.
   - IVF (bolus to maintain UOP > 50 cc/hr)
   - Renally dose meds; avoid nephrotoxins
   .
   # HYPONATREMIA: likely secondary to appropriate ADH response to
   dehydration, improving; ?adrenal insufficiency given low cortisol. UOP
   has been declining.
   - IV fluids (will bolus this AM for recent low UOP)
   - Follow-up ACTH/renin
   - trend electrolytes
   .
   # HYPERKALEMIA. Elevated to 6.7 with EKG changes; pt received
   insulin/dextrose, bicarb, calcium, kayexalate X2. Likely secondary to
   acute on chronic kidney disease.
   - Normalized now that pt is at baseline creatinine. Will follow results
   of daily labs.
   .
   # SUDDEN HEARING LOSS. Pt not yet evaluated due to agitation, but per
   family was c/o hearing loss. Sudden sensorineural hearing loss is
   usually unilateral, usually resolves in <72 hours. Etiology usually
   uncertain; postulated etiologies include viral cochleitis (associated
   with HSV-I, parainfluenza, influenza virus, HIV, MMR, bacterial
   meningitis, M. pneumonia, Lyme, MTb, syphilis), microvascular events,
   vertebrobasilar CVA / TIA; cerebellar infarction, inner ear hemorrhage,
   autoimmune disorders/vasculitides, ototoxic drugs, neoplasm, head
   injury, Meniere's disease, otosclerosis, Paget's, MS, sarcoid,
   hypothyroidism. Typical treatment for sudden sensorineural hearing loss
   includes 10 days of high dose prednisone (60-80 mg qd), with
   valacyclovir 1 g tid X 7-10 days (though trials supporting these
   treatments are lacking). We will continue acyclovir empirically until
   further evaluation of the pt's hearing is possible, but will not use
   steroids given possibility of infection.
   - Continue acyclovir (day 1 = [**4-17**]) for presumed course 7-10 days unless
   CSF PCR negative for HSV1
   - Audiometric eval when possible, if symptoms persist when patient able
   to be examined
   - TSH low; will start thyroxine.
   - Follow-up MRI
   .
   # Elevated coags/LFTs. Unclear etiology, will recheck tomorrow.
   .
   # Hypertension. Hold home meds for now (lasix, diltiazem, isosorbide
   mononitrate)
   .
   # Hyperlipidemia. High dose statin as above.
   .
   # GERD. Continue home PPI.
   .
   # Agitation/discomfort. Morphine prn pain.
   .
   # FEN: IVF boluses as needed, replete electrolytes, NPO
   # Prophylaxis: On heparin drip for possible ACS, pneumoboots; PPI
   # Access: 2 peripherals
   # Communication: Son, [**Name (NI) 2476**] [**Name (NI) 14418**], [**Telephone/Fax (1) 14419**]
   # Code: Presumed full per initial discussion with family, unable to
   discuss with patient.
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-4-19**] 04:33 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: